US04371736
2-(5-Chloropyrimidin-2-yloxy)phenol
To a mixture of 6.0 grams (0.055 mole) catechol and 7.0 grams of potassium carbonate stirring in 45 ml of dimethylformamide, 7.0 grams of 2,5-dichloropyrimidine was added and the mixture stirred at room temperature overnight followed by heating at 80° for 4 hours. Excess water was added to the reaction mixture, and the aqueous mixture extracted with 300 ml of ethyl ether. The ether extract was washed with H2O (2X), brine, dried (magnesium sulfate), filtered, and the solvent removed to yield a yellow oil which slowly crystallized. From a 1-chlorobutane/cyclohexane mixture, the crude solid was recrystallized to give 6.0 grams of product, m.p. 131°-139°; ir (Nujol): 2.90-3.30 (OH), 12.80, 13.30 microns.

reactant | catechol | 0.055 mole, 6.0 grams | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | potassium carbonate | 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichloropyrimidine | 7.0 grams | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
reactant | water | O | H2O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 2-(5-Chloropyrimidin-2-yloxy)phenol | 6.0 grams | ClC=1C=NC(=NC1)OC1=C(C=CC=C1)O | C10H7ClN2O2
